US20010027196A1
To a stirred solution of 250 mg (0.77 mmol) trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester in 10 ml DME was added 489 mg (2.12 mmol) 2-(aminomethyl)quinoline dihydrochloride and the mixture heated at 80° C. for 16 hours. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate/hexane 4/1) followed by trituration in ether/hexane afforded 80 mg (50%) 4-chloro-6-furan-2-yl-5-methyl-pyrimidin-2-ylamine as a white crystalline solid. ES-MS m/e (%): 212 (M{37Cl}+H+, 50), 210 (M{35Cl}+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester | 0.77 mmol, 250 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C)C=1OC=CC1 | C10H8F3N3O4S
reactant | 2-(aminomethyl)quinoline dihydrochloride | 2.12 mmol, 489 mg | Cl.Cl.NCC1=NC2=CC=CC=C2C=C1
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 4-chloro-6-furan-2-yl-5-methyl-pyrimidin-2-ylamine | 80 mg, 50% | ClC1=NC(=NC(=C1C)C=1OC=CC1)N | C9H8ClN3O
